US05296485
4-(4-Fluorophenyl)-1-[1-(4-nitrophenyl)-4-piperidinyl]-1,2,5,6-tetrahydropyridine
5.5 g of 1-(4-nitrophenyl)-4-piperidone and 4.4 g of 4-(4-fluorophenyl)-1,2,5,6-tetrahydropyridine were reacted as in Example 1. The product crystallized as fumarate.

reactant | 1-(4-nitrophenyl)-4-piperidone | 5.5 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | 4-(4-fluorophenyl)-1,2,5,6-tetrahydropyridine | 4.4 g | FC1=CC=C(C=C1)C1=CCNCC1 | C11H12FN
product | 4-(4-Fluorophenyl)-1-[1-(4-nitrophenyl)-4-piperidinyl]-1,2,5,6-tetrahydropyridine | FC1=CC=C(C=C1)C1=CCN(CC1)C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C22H24FN3O2
